US04029672
A solution of 16.0 g of 1-(o-fluorobenzyl)-2-(dimethylaminoacetyl)pyrrole, free base of Example 3a, in 60 ml of ether is treated with a solution of methylmagnesium iodide, prepared from 2.7 g of magnesium turnings and 15.3 g of methyl iodide, in 40 ml of ether according to the procedure described in Example 9a to produce a crude yellow oil of 1-(dimethylamino)2-[1-(o-fluorobenzyl)-2-pyrryl]-2-hydroxypropane. Distillation at 130°-138° C./0.1 mm affords the product as a faintly yellow oil.

reactant | 1-(o-fluorobenzyl)-2-(dimethylaminoacetyl)pyrrole | 16.0 g | FC1=C(CN2C(=CC=C2)C(CN(C)C)=O)C=CC=C1 | C15H17FN2O
reactant | methylmagnesium iodide | C[Mg]I
reactant | magnesium | 2.7 g | [Mg] | Mg
reactant | methyl iodide | 15.3 g | CI | CH3I
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 1-(dimethylamino)2-[1-(o-fluorobenzyl)-2-pyrryl]-2-hydroxypropane | CN(CC(C)(O)C=1N(C=CC1)CC1=C(C=CC=C1)F)C | C16H21FN2O
